US05409936
A mixture of ethyl 5-ethyl-2-n-propyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (1.10 g), fumaric acid (1.2 g) and ethanol (20 ml) is refluxed for one hour. The mixture is evaporated, and the residue is dissolved in chloroform, and the mixture is washed with a saturated sodium hydrogen carbonate solution and brine, dried and evaporated. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give ethyl 5-ethyl-2-n-propyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (0.65 g) as a white foam.

reactant | ethyl 5-ethyl-2-n-propyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 1.10 g | C(C)N1C(C2=C(CC1)N=C(N2CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCC)C(=O)OCC | C47H47N7O2
reactant | fumaric acid | 1.2 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 5-ethyl-2-n-propyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 0.65 g | C(C)N1C(C2=C(CC1)N=C(N2CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)CCC)C(=O)OCC | C28H33N7O2
